Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],1.56184017143
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[O:7][C:8]1([H:9])[H:10]>>[C:1]([O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:2])([H:9])[H:10],2.46568930245
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2],4.61572683142
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.81163752529
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.0134786519
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[H:12].[H:1][C:2]([H:3])([C:4]([H:5])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19])[H:6],1.10288770712
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.59441241915
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:9][H:10].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],8.78372164204
[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.54979308649
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.71249701457
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([H:7])[C:8]([H:9])[H:10],0.8178825562
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8].[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-6.8063832773399975
[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.24134673089
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:4],3.7566987895
[C:1][C:2][O:3]>>[C:1]#[C:2].[O:3],8.11965889398
[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.78425195684
[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.62860639675
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],-1.56184017143
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],0.668301839329
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4][O:6][C:7]([H:8])[O:9][H:10].[H:5],4.196080568959999
[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.002520941619999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:7]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:8],7.6810467075699975
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-2.7158548769200004
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],3.84381199339
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-4.28782780121
[C:7]([H:8])([H:9])=[C:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.56335300992
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.61227430621
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.6806978833
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]1\[O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],2.47491896665
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9],-3.88548673889
